US07816371B2
b. (R)-Methyl 3-(tert-butyldimethylsilyloxy)-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate
A round bottom flask was charged with (R)-methyl 3-hydroxy-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate (4 g, 0.01 mol) and methylene chloride (40 mL, 0.5 mol) and 1H-imidazole (1.6 g, 0.023 mol) and tert-butyldimethylsilyl chloride (2.3 g, 0.015 mol) were added at 0° C. and the reaction allowed to warm to room temperature and stirred for 16 h. The reaction mixture was quenched with water and extracted with methylene chloride. Solvent was removed under reduced pressure to yield pure product. MS m/z=407.5 (M+H).

reactant | (R)-methyl 3-hydroxy-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate | 0.01 mol, 4 g | OC[C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C13H12N2O6
reactant | methylene chloride | 0.5 mol, 40 mL | C(Cl)Cl | CH2Cl2
reactant | 1H-imidazole | 0.023 mol, 1.6 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.015 mol, 2.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | (R)-Methyl 3-(tert-butyldimethylsilyloxy)-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)propanoate | [Si](C)(C)(C(C)(C)C)OC[C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C19H26N2O6Si
